US07759337B2
A suspension of 2-tert-butyl-5-chloro-3-hydroxyisoindolin-1-one (5.26 g, 21.9 mmol) in glacial acetic acid (32 mL) was heated with stirring until the mixture became a clear solution. Anhydrous hydrazine (1.0 mL, 22 mmol) was added dropwise and the resultant solution was stirred at reflux overnight. The reaction mixture was concentrated under reduced pressure. Water was added to the mixture, after which a solid material precipitated out of the solution. The solid was collected by filtration and rinsed thoroughly with water, followed by air-drying to afford 6-chlorophthalazin-1-ol (3.9 g, 98% yield) as an off-white powder (mp 271-273° C.).

reactant | 2-tert-butyl-5-chloro-3-hydroxyisoindolin-1-one | 21.9 mmol, 5.26 g | C(C)(C)(C)N1C(C2=CC=C(C=C2C1O)Cl)=O | C12H14ClNO2
reactant | hydrazine | 22 mmol, 1.0 mL | NN | H4N2
solvent | acetic acid | 32 mL | C(C)(=O)O | C2H4O2
product | 6-chlorophthalazin-1-ol | 3.9 g, 98% yield | ClC=1C=C2C=NN=C(C2=CC1)O | C8H5ClN2O
